US07943622B2
Step 2. Synthesis of (3-chloro-2-fluorophenyl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to tert-butyl 4-(3-chloro-2-fluorobenzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (70 mg, 0.16 mmol). After stirring overnight, the reaction mixture was concentrated under reduced pressure, yielding 60.5 mg (92%) of the title compound. LC-MS: RT=3.80 min, [M+H]+=350.5.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(3-chloro-2-fluorobenzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.16 mmol, 70 mg | ClC=1C(=C(C(=O)N2C(CN(CC2)C(=O)OC(C)(C)C)COC=2C=NC=CC2)C=CC1)F | C22H25ClFN3O4
product | (3-chloro-2-fluorophenyl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 60.5 mg, 92% | Cl.Cl.ClC=1C(=C(C=CC1)C(=O)N1C(CNCC1)COC=1C=NC=CC1)F | InChI=1S/C17H17ClFN3O2.2ClH/c18-15-5-1-4-14(16(15)19)17(23)22-8-7-21-9-12(22)11-24-13-3-2-6-20-10-13;;/h1-6,10,12,21H,7-9,11H2;2*1H
